US05053408
A mixture of 3.17 g (29.3 mmols) of o-phenylenediamine, 3.75 g (36.0 mmols) of 3-methoxypropionic acid [J. Am. Chem. Soc., 70, 1004 (1948)]and 32 ml of a 4 normal aqueous hydrochloric acid solution was heated under reflux for 14 hours. After cooling, the mixture was neutralized with a 28-30% aqueous ammonia solution. The mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform/methanol =20/1) to afford 4.74 g (yield: 92%) of 2-(2-methoxyethyl)benzimidazole.

reactant | o-phenylenediamine | 29.3 mmols, 3.17 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 3-methoxypropionic acid | 36.0 mmols, 3.75 g | COCCC(=O)O | C4H8O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
product | 2-(2-methoxyethyl)benzimidazole | 4.74 g, yield: 92% | COCCC=1NC2=C(N1)C=CC=C2 | C10H12N2O
